US20010000345A1
To a pale yellow solution of 500 mg of 7-amino-8-methylquinoline in 20 mL of tetrahydrofuran are added 1.18 g of ethyl N,N-bis(benzyloxycarbonyl)pseudothiourea and 1.01 g of mercuric acetate and the mixture is stirred at room temperature for 1 hour. The suspension is diluted with ethyl acetate and the organic layer is washed with water followed by brine. The aqueous layers are extracted with ethyl acetate; the combined organic layers are dried over magnesium sulfate, filtered and rotary evaporated. The residue is purified by flash column chromatography on silica gel, eluting with 50% ethyl acetate/hexanes and recrystallization from hexanes/methylene chloride to provide 1.257 g of 7-[N2,N3-bis(benzyloxycarbonyl)guanidino]-8-methylquinoline as a white solid.

reactant | 7-amino-8-methylquinoline | 500 mg | NC1=CC=C2C=CC=NC2=C1C | C10H10N2
reactant | ethyl N,N-bis(benzyloxycarbonyl)pseudothiourea | 1.18 g | C(C)N=C(N(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)S | C19H20N2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 7-[N2,N3-bis(benzyloxycarbonyl)guanidino]-8-methylquinoline | 1.257 g | C(C1=CC=CC=C1)OC(=O)N=C(NC1=CC=C2C=CC=NC2=C1C)NC(=O)OCC1=CC=CC=C1 | C27H24N4O4
